US05500453
A solution of 2.62 g of lithium methyl-tris(p-fluorophenyl)borate in 50 ml of acetonitrile was added to a solution of 5.00 g of bis(p-chlorophenyl)(p-methoxyphenacyl)oxosulfoniumhexafluorophosphate in 100 ml of acetonitrile, and the resultant mixture was stirred at room temperature for 30 minutes. Then, 200 ml of water was added. The resultant precipitate of a yellow oily component was recovered, and 100 ml of dichloromethane was added. The dichloromethane layer was washed with water, dried and concentrated to give 3.26 g of bis(p-chlorophenyl)(p-methoxyphenacyl)oxosulfonium-methyl-tris(p-fluorophenyl)borate.

reactant | lithium methyl-tris(p-fluorophenyl)borate | 2.62 g | C[B-](C1=CC=C(C=C1)F)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F.[Li+]
reactant | bis(p-chlorophenyl)(p-methoxyphenacyl)oxosulfoniumhexafluorophosphate | 5.00 g | F[P-](F)(F)(F)(F)F.ClC1=CC=C(C=C1)[S+](=O)(CC(=O)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)Cl
reactant | water | 200 ml | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | bis(p-chlorophenyl)(p-methoxyphenacyl)oxosulfonium methyl-tris(p-fluorophenyl)borate | 3.26 g | ClC1=CC=C(C=C1)[S+](=O)(CC(=O)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)Cl.C[B-](C1=CC=C(C=C1)F)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | InChI=1S/C21H17Cl2O3S.C19H15BF3/c1-26-18-8-2-15(3-9-18)21(24)14-27(25,19-10-4-16(22)5-11-19)20-12-6-17(23)7-13-20;1-20(14-2-8-17(21)9-3-14,15-4-10-18(22)11-5-15)16-6-12-19(23)13-7-16/h2-13H,14H2,1H3;2-13H,1H3/q+1;-1
